US08735384B2
A mixture of 6-bromo-3-(2-ethylmorpholino)-N-(4-methoxybenzyl)quinolin-2-amine (0.16 g, 0.351 mmol), PdCl2(dppf)-CH2Cl2adduct (0.014 g, 0.018 mmol), bis(pinacolato)diboron (0.107 g, 0.421 mmol), and potassium acetate (0.066 mL, 1.052 mmol) was purged with N2 for 10 min followed by the addition of dioxane (degassed with N2, 2 mL). The resulting mixture was heated at 85° C. for 16 h. The reaction went to completion, concentrated and then diluted with EtOAc and filtered. The solvent was removed to afford 3-(2-ethylmorpholino)-N-(4-methoxybenzyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine that was used without further purification.

reactant | 6-bromo-3-(2-ethylmorpholino)-N-(4-methoxybenzyl)quinolin-2-amine | 0.351 mmol, 0.16 g | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)N1CC(OCC1)CC | C23H26BrN3O2
reactant | bis(pinacolato)diboron | 0.421 mmol, 0.107 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.052 mmol, 0.066 mL | C(C)(=O)[O-].[K+]
product | 3-(2-ethylmorpholino)-N-(4-methoxybenzyl)-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | C(C)C1OCCN(C1)C=1C(=NC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C)NCC1=CC=C(C=C1)OC | C29H38BN3O4
